### PR TITLE
[Merged by Bors] - feat: ringOfIntegersEquiv_symm_coe

### PR DESCRIPTION
**Pull request by bwangpj**
This is upstreamed from the FLT project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 1]
```diff
@@ -420,6 +420,10 @@ theorem coe_ringOfIntegersEquiv (z : 𝓞 ℚ) :
   obtain ⟨z, rfl⟩ := Rat.ringOfIntegersEquiv.symm.surjective z
   simp
 
+theorem ringOfIntegersEquiv_symm_coe (x : ℤ) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: This isn't really consistent with the name of the previous theorem. What about `ringOfIntegersEquiv.apply_coe` and `ringOfIntegersEquiv.symm_apply_coe`?

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 2]
```diff
@@ -415,11 +415,15 @@ noncomputable def ringOfIntegersEquiv : 𝓞 ℚ ≃+* ℤ :=
   RingOfIntegers.equiv ℤ
 
 @[simp]
-theorem coe_ringOfIntegersEquiv (z : 𝓞 ℚ) :
+theorem ringOfIntegersEquiv.apply_coe (z : 𝓞 ℚ) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: Actually, sorry, looking through some other examples, maybe underscore is preferred here.
```suggestion
theorem ringOfIntegersEquiv_apply_coe (z : 𝓞 ℚ) :
```

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 3]
```diff
@@ -415,11 +415,15 @@ noncomputable def ringOfIntegersEquiv : 𝓞 ℚ ≃+* ℤ :=
...
     (Rat.ringOfIntegersEquiv z : ℚ) = algebraMap (𝓞 ℚ) ℚ z := by
   obtain ⟨z, rfl⟩ := Rat.ringOfIntegersEquiv.symm.surjective z
   simp
 
+theorem ringOfIntegersEquiv.symm_apply_coe (x : ℤ) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]:
```suggestion
theorem ringOfIntegersEquiv_symm_apply_coe (x : ℤ) :
```

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
maintainer merge
